US09328110B2
Concentrated hydrochloric acid (3 mL) was added to 2-methyl-1-[3-(2-methyl-[1,3]dioxolan-2-yl)propyl]-1H-imidazo[4,5-c]quinolin-4-amine (1.0 g, 2.7 mmol), and the mixture stirred for a few minutes until everything was in solution. Water (5 mL) was then added and the solution stirred for one hour at room temperature. After the addition of dichloromethane (75 mL) and water (25 mL), the solution was made basic by the slow addition of potassium carbonate (10.0 g). The layers were separated, and the organic layer was washed with a saturated aqueous sodium bicarbonate solution (25 mL), dried over potassium carbonate, filtered, and concentrated under reduced pressure to provide 5-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)pentan-2-one, mp 194-196° C.

reactant | hydrochloric acid | 3 mL | Cl | ClH
reactant | 2-methyl-1-[3-(2-methyl-[1,3]dioxolan-2-yl)propyl]-1H-imidazo[4,5-c]quinolin-4-amine | 2.7 mmol, 1.0 g | CC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CCCC1(OCCO1)C | C18H22N4O2
reactant | potassium carbonate | 10.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 25 mL | O | H2O
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | Water | 5 mL | O | H2O
product | 5-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)pentan-2-one | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCC(C)=O)C | C16H18N4O
